US07504508B2
(2S,4R)-4-{4-[4-(Acetyl-phenyl-amino)-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl]-phenoxy}-2,2-dimethyl-butyric acid (H-79)
4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2,2-dimethyl-butyric acid (300 mg, 0.545 mmol) was dissolved in ethanol. Pd/C (10% Palladium) was added, followed by H2 gas (1 atm-balloon). After 3 hours, the reaction mixture was filtered and concentrated. The crude residue was purified by silica gel chromatography (100% ethyl acetate to 5% methanol/ethyl acetate gradient) to afford the product.

reactant | 4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2,2-dimethyl-butyric acid | 0.545 mmol, 300 mg | C(C)(=O)N(C1CC(N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)(C)C)C=C1)C)C1=CC=C(C=C1)Cl | C31H33ClN2O5
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | (2S,4R)-4-{4-[4-(Acetyl-phenyl-amino)-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl]-phenoxy}-2,2-dimethyl-butyric acid | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(OCCC(C(=O)O)(C)C)C=C1)C)C1=CC=CC=C1 | C31H34N2O5
